US07135598B2
Preparation of N-decyl-N-vinylformamide (1c)
Into a dry 250 mL three-necked round-bottomed flask equipped with magnetic stirring bar and dropping funnel was placed 8 g (0.07 mol) of fresh N-vinylformamide potassium salt and 200 mL of anhydrous THF. 1-Bromodecane, 16.1 g (0.07 mol) was added to the reaction mixture dropwise at 10° C. over 30 minutes. When addition was complete, the reaction was allowed to stir overnight at ambient temperature. The reaction mixture was concentrated under reduced pressure to remove most of the solvent and diluted with 100 mL of water. The organic layer was extracted with diethyl ether. The combined organic layers were washed twice with water and dried over anhydrous magnesium sulfate. The product was recovered after concentration in vacuum and purification by chromatography on silica (diethyl ether/petroleum ether (v/v=2:8). Yield: 13.2 g (89%). IR (NaCl, v: cm−1):1702 (—NHC(═O)H); 1631 (C═C); 1H-NMR (CDCl3, δ: ppm): 8.43, 8.27 (2s, 1H, —C(═O)H); 7.37–7.28, 6.73–6.65 (m, 1H, H2C═CH—); 4.78–4.67 (m, 1H, HaHbC═CH—); 4.58–4.55 (d, 1H, HaHbC═CH—); 3.72–3.56 (t, 2H, —NCH2CH2—); 1.76–1.62 (m, 2H, —NCH2CH2(CH2)7CH3); 1.44–1.28 (m, 14H, —NCH2CH2(CH2)7CH3); 1.04–1.00 (t, 3H, —NCH2CH2(CH2)7CH3).

reactant | N-vinylformamide potassium salt | 0.07 mol, 8 g | [K].C(=C)NC=O
reactant | 1-Bromodecane | BrCCCCCCCCCC | C10H21Br
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | N-decyl-N-vinylformamide | C(CCCCCCCCC)N(C=O)C=C | C13H25NO
